US08067445B2
Step 3: (5-Chloro-2′-{[ethyl-(4-fluoro-benzyloxycarbonyl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid 4-fluoro-benzyl ester and (3-bromo-5-chloro-phenyl)-acetic acid methyl ester.

reactant | ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid 4-fluoro-benzyl ester | FC1=CC=C(COC(N(CC2=C(C=CC(=C2)C(F)(F)F)B2OC(C(O2)(C)C)(C)C)CC)=O)C=C1 | C24H28BF4NO4
reactant | (3-bromo-5-chloro-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)Br)=O | C9H8BrClO2
product | (5-Chloro-2′-{[ethyl-(4-fluoro-benzyloxycarbonyl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)OCC1=CC=C(C=C1)F)CC)=O | C27H24ClF4NO4
